US05264433
To a solution of (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-1-[(1-trityl-1H-tetrazol-5-yl) methyl]-2H-1,4-benzodiazepin-2-one (128 g) in tetrahydrofuran (2.56 l) was added hydrazine monohydrate (10.43 ml) at room temperature. The mixture was stirred at 60° C. for 4 hours and the resultant precipitate was filtered off. The filtrate and the washings were evaporated in vacuo and the residue was dissolved in dichloromethane. After the insoluble material was filtered off, the solvent was evaporated in vacuo and the residue was dissolved in ethyl acetate and washed with 1N-sodium hydroxide solution and subsequently with water. The organic layer was dried over magnesium sulfate and filtered, and the filtrate was evaporated in vacuo to about 300 ml. The residue was stirred at room temperature. The resulting precipitates were collected by filtration to give (3RS)-3-amino-1,3-dihydro-5-phenyl-1-[(1-trityl-1 H-tetrazol-5-yl)methyl]-2H-1,4-benzodiazepin-2-one (53.6 g).

reactant | (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-1-[(1-trityl-1H-tetrazol-5-yl) methyl]-2H-1,4-benzodiazepin-2-one | 128 g | C1(=CC=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C44H31N7O3
reactant | hydrazine monohydrate | 10.43 ml | O.NN
solvent | tetrahydrofuran | 2.56 l | O1CCCC1 | C4H8O
product | (3RS)-3-amino-1,3-dihydro-5-phenyl-1-[(1-trityl-1 H-tetrazol-5-yl)methyl]-2H-1,4-benzodiazepin-2-one | 53.6 g | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C36H29N7O
